US06372770B1
2-(3,4-dimethoxybenzyl)-7-(3-hydroxy-propyl)-benzoxazole
A solution of 2.89 g (8.0 mmol) of 5-chloro-2-(3,4-dimethoxybenzyl)-7-(3-hydroxy-propyl)-benzoxazole in 50 ml of THF and 1.23 ml (8.8 mmol) of triethylamine and with 0.58 g of 10% Pd-C was hydrogenated in an autoclave at about 1100 psi. After 2.5 hour, the catalyst was filtered off and the solvents evaporated in vacuo. The residue was dissolved in dichloromethane and filtered through 6.3 g of silica gel in a column. The recovered material (2.53 g) was crystallized from di-isopropyl ether to give the title compound (1.36 g, 51.9%), mp 95-7° C. A second crop of 0.94 g (35.9%) was also obtained.

reactant | 5-chloro-2-(3,4-dimethoxybenzyl)-7-(3-hydroxy-propyl)-benzoxazole | 8.0 mmol, 2.89 g | ClC=1C=C(C2=C(N=C(O2)CC2=CC(=C(C=C2)OC)OC)C1)CCCO | C19H20ClNO4
reactant | triethylamine | 8.8 mmol, 1.23 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 0.58 g | [Pd] | Pd
product | 2-(3,4-dimethoxybenzyl)-7-(3-hydroxy-propyl)-benzoxazole | 1.36 g, 51.9% | COC=1C=C(CC=2OC3=C(N2)C=CC=C3CCCO)C=CC1OC | C19H21NO4
